US05607941
By reacting (-)-(R)-2-methoxypropanol with p-toluenesulphonic acid chloride in pyridine analogously to R. S. Tipson [J. Org. Chem. 9 (1944) 235] the (+)-(R)-2-methoxypropyl-p-toluenesulphonate is obtained in the form of a yellowish oil with a specific rotation of [α]D25 =+3.7° (c=100) and analogously, from (+)-(S)-2-methoxy-propanol, the corresponding (-)-(S)-2-methoxypropyl-p-toluenesulphonate is obtained with a rotation of [α]D25 =-3.7° (c=100).

reactant | (-)-(R)-2-methoxypropanol | CO[C@@H](CO)C | C4H10O2
reactant | p-toluenesulphonic acid chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (+)-(R)-2-methoxypropyl-p-toluenesulphonate | CO[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)C | C11H16O4S
